US07626030B2
Methyl 6-(6,7-dimethoxyquinolin-4-yloxy)benzofuran-3-carboxylate (102 mg, 0.269 mmol) was dissolved in dioxane (1.6 mL) and water (0.5 mL), then added 2N aqueous sodium hydroxide (141 □L). The reaction mixture was stirred at room temperature overnight. The mixture was concentrated in vacuo then diluted with water. The aqueous layer was extracted with ethyl acetate. The aqueous layer was acidified with aqueous 1N hydrochloric acid (282 μL) and the precipitate was collected, washed with water and dried under high vacuum to give 6-(6,7-dimethoxyquinolin-4-yloxy)benzofuran-3-carboxylic acid as a light yellow solid (65 mg). MS (ESI, pos. ion) m/z: 366.1 (M+1).

reactant | Methyl 6-(6,7-dimethoxyquinolin-4-yloxy)benzofuran-3-carboxylate | 0.269 mmol, 102 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC2=C(C(=CO2)C(=O)OC)C=C1 | C21H17NO6
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | dioxane | 1.6 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
product | 6-(6,7-dimethoxyquinolin-4-yloxy)benzofuran-3-carboxylic acid | 65 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC2=C(C(=CO2)C(=O)O)C=C1 | C20H15NO6
